US06387919B1
A solution of 16.2 g (100 mmol) of 6-aminophthalimide, 9.6 g (100 mmol) of methanesulfonic acid, and 4.0 g of 10% Pd/C in 140 mL of TFA was hydrogenated overnight at 50 psi. The catalyst was filtered off and and the filtrate concentrated on a rotary evaporator. The residue was diluted with 70 mL of ice water, adjusted to pH 8 with K2CO3, and chilled in an ice bath. The resulting solid was filtered to give 6.7 g of a 5:4 ratio of 5-amino:6-amino lactam isomers. Recrystallization from hot ethanol/water afforded 1.45 g of undesired isomer. The filtrate was preabsorbed onto silica gel and chromatographed with TEA:MeOH:methylene chloride (1:2:47). The resulting solid was slurried in methylene chloride/MeOH and filtered to afford a low yield of 5-amino-2,3-dihydro-isoindol-1-one: 1H NMR (DMSO-d6): δ 4.13 (s, 2H), 5.67 (s, 2H), 6.55 (dd, J=8.7, 1.9 Hz, 1H), 6.55 (d, J=1.9 Hz, 1H), 7.25 (d, J=8.7 Hz, 1H), 7.83 (s, 1H); APCI−MS m/z 149 (M+H)+.

reactant | 6-aminophthalimide | 100 mmol, 16.2 g | NC=1C=CC=C2C1C(=O)NC2=O | C8H6N2O2
reactant | methanesulfonic acid | 100 mmol, 9.6 g | CS(=O)(=O)O | CH4O3S
reactant | TFA | 140 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | Pd/C | 4.0 g | [Pd] | Pd
product | 5-amino-2,3-dihydro-isoindol-1-one | NC=1C=C2CNC(C2=CC1)=O | C8H8N2O
